datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[O:10][O:11]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:3][O:10][O:11],21.00368
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13]([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]=[O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:12][C:13]([H:14])([H:15])[H:16],13.43064
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([C:23](=[C:24]([H:28])[H:29])[H:27])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[C:22]([C:23](=[C:24]([H:28])[H:29])[H:27])([H:25])[H:26])[H:13])([H:10])([H:11])[H:12],65.7306
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[C:24]([H:25])([H:26])[H:27]>>[C:0]([C:1]([C:2]1[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:24]([H:25])([H:26])[H:27],36.768992
[C:0](=[N:1][H:4])([H:2])[H:3].[N:5]([H:6])[H:7]>>[C:0](=[N:1][H:4])[H:3].[H:2][N:5]([H:6])[H:7],25.4806
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([c:28]1[c:29]([H:36])[c:30]([H:37])[c:31]([H:38])[c:32]([H:39])[c:33]1[H:40])([H:34])[H:35]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])[C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:27]([c:28]1[c:29]([H:36])[c:30]([H:37])[c:31]([H:38])[c:32]([H:39])[c:33]1[H:40])([H:34])[H:35])[H:15])([H:13])[H:14],38.7857
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21],109.244
[C:0]([C:1]([C:2]([C:3]([C:4](=[O:5])[H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1](=[C:2]([H:11])[H:12])[H:10])([H:6])([H:7])[H:8].[C:3](=[C:4]([O:5][H:9])[H:15])([H:13])[H:14],218.469
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8]([C:9]([C:10]([H:20])([H:21])[H:22])[c:11]1[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]1[H:27])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:9]([C:8]([H:17])([H:18])[H:19])([C:10]([H:20])([H:21])[H:22])[c:11]1[c:12]([H:23])[c:13]([H:24])[c:14]([H:25])[c:15]([H:26])[c:16]1[H:27])[H:6],32.1331
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]1([H:16])[C:9]([H:17])([H:18])[C:10]([H:19])([H:20])[C:11]([H:21])([H:22])[C:12]([H:23])([H:24])[C:13]1([H:25])[H:26])([H:14])[H:15]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]([C:8]1([H:16])[C:9]([H:17])([H:18])[C:10]([H:19])([H:20])[C:11]([H:21])([H:22])[C:12]([H:23])([H:24])[C:13]1([H:25])[H:26])([H:14])[H:15],0.0
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([S:9][H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:8]([S:9][H:12])([H:10])[H:11],87.2364
[C-:5]#[O+:6].[C:0]([S:1])([H:2])([H:3])[H:4]>>[C:0]([S:1][C:5]=[O:6])([H:2])([H:3])[H:4],9.33032
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[O:7][O:8][H:9]>>[C:0]([C:1]([O:2])([H:6])[O:7][O:8][H:9])([H:3])([H:4])[H:5],94.7258
[C-:0]#[S+:1].[H:2]>>[C:0](=[S:1])[H:2],20.92
[C:0](=[C:1]=[C:2]([C:3]1([H:13])[C:4]([H:14])=[C:5]([H:15])[C:6]([H:16])=[C:7]([H:17])[C:8]1=[C:9]([H:18])[H:19])[H:12])([H:10])[H:11]>>[C:0]([C:1]#[C:2][H:12])([C:9]([c:8]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:18])[H:19])([H:10])[H:11],76.688536
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][O:22][H:23]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:13][O:21][O:22][H:23],62.751632
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([S:3][C:10]([H:11])([H:12])[H:13])([H:7])[H:8])[H:6])([H:4])[H:5].[H:9],64.0152
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10]([C:11]([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:11]([C:10]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])[H:6],24.9366
